Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ year old man with metastatic prostate cancer 
who presents with nausea, weight loss and failure to thrive.  He 
has been receiving Taxotere every 3 weeks, last dose was on 
___ (cycle 3 of therapy).  PSA has been coming down with 
treatment.
 
The patient reports in the last 3 weeks feeling persistent 
nausea despite taking compazine every ___ hours.  He tries to 
vomit but nothing has come out.  He has lost about 40 lbs during 
this time and in the past week alone he has lost 10 lbs.  He 
reports drinking 3 ensure total in the past 5 days.  He denies 
fevers or chills.  He states he has access to food and cooks for 
himself but then does not eat due to nausea.  He has a history 
of bone pain/rib pain but this has improved in the past few 
weeks and he has stopped taking his Oxycontin completey.  He has 
been having difficulty with bowel movement because he cannot get 
to the bathroom quick enough and has urge incontinence.  He 
denies back pain, numbness or tingling.  He has left > right leg 
swelling x years.  
 
In the emergency department, initial vitals: 97.7 72 165/64 18 
100%.  He was given 2 L NS. 

Review of systems:
(+) Per HPI  
(-) Denies fever, chills, night sweats. + occasional runny nose. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. + nausea/vomiting.  No diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
Oncology Hx  
- ___, diagnosed with prostate cancer, treated definitively 
with radiation therapy. He was monitored with serial PSAs at the 
___.  
- early ___, his prostate cancer care was transferred to Dr. 
___. Pt's PSA was noted to be slowly rising, with doubling  
time of approx ___ year. Thus, no therapy was initiated.  
- ___, pt's PSA rose to 10.9 and Lupron was started. He  
continued q3mos Lupron shots with no significant side effects.  
PSA responded well, decreased to 0.1. PSA was continued to be  
followed closely.  
- ___, PSA was noted to rise from 1.6 to 9.7. At this  
time, Casodex was added.  
- ___ further PSA rise to 22.9. Around this time, pt 
started  
to experience pain in his L shoulder, low back. He initially  
thought this was related to his OA, however, when pain worsened, 
 
he presented to the ___ where an Xray and subsequent bone scan  
were done. Bone scan revealed uptake in various ribs and  
vertebral bodies, suspicious for metastatic bone disease. He was 
 
advised to stop Casodex as it is not helping and referred to 
___  
- ___ initial visit here, started Ketoconozole/Hydrocort,  
continuing Lupron  
Other PMH:  
*S/P HERNIATED DISC ___  
ABDOMINAL AORTIC ANEURYSM  
ATAXIA  
BACK PAIN  
CATARACT  
CHRONIC OBSTRUCTIVE PULMONARY DISEASE  
COLONIC POLYPS ___  
GASTROESOPHAGEAL REFLUX ___ Chest pain, relieved with PPI and 
Maalox  
HEARING LOSS ___ Fitted for hearing aids at V.A.  
HYPERTENSION  
LEFT LEG EDEMA ___  
PERIPHERAL VASCULAR DISEASE, s/p bilateral iliac stents and  
fem-pop bypass in ___.  
PRIMARY BILIARY CIRRHOSIS  
RENAL INSUFFICIENCY  
SPINAL STENOSIS  
STAPES ___ One ear has metal and one ears has plastic stapes 
implants  
URINARY INCONTINENCE  
H/O GALLSTONES  
Bilateral renal artery stenosis  
Small AAA (f/b Dr. ___ at ___  
Dyslipidemia  
Hypertension  
Diastolic Heart Failure  
 
Social History:
___
Family History:
Father had DM, MI. Mother also had DM. Older brother with DM; 
another brother with low grade lymphoma.  
 
Physical Exam:
ADMISSION
VS: T98.3 BP 140/66 HR 72 R20 100% RA
GENERAL: thin, pale man, NAD
HEENT: No scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck 
Supple, No LAD.
CARDIAC: RR with occasional PVCs. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: Left lower extremity edema (1+) in foot and lower 
leg, 2+ dorsalis pedis/ posterior tibial pulses.
MSK: No back tenderness.  No rib tenderness.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred
 
DISCHARGE
VS: T 97.8 BP 164/60 HR 72 R 20 100% RA
GENERAL: elderly gentleman in NAD
HEENT: No scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck 
Supple, No LAD.
CARDIAC: RR with occasional PVCs. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: Left lower extremity edema (1+) in foot and lower 
leg, 2+ dorsalis pedis/ posterior tibial pulses.
MSK: No back tenderness.  No rib tenderness.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Ambulating independently
 
Pertinent Results:
ADMISSION
___ 03:35PM   WBC-1.8*# RBC-4.06* HGB-11.4* HCT-34.2* 
MCV-84 MCH-28.1 MCHC-33.3 RDW-15.5
___ 03:35PM   NEUTS-31.4* LYMPHS-61.1* MONOS-5.4 EOS-1.1 
BASOS-1.0
___ 03:35PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-OCCASIONAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-OCCASIONAL 
OVALOCYT-OCCASIONAL ACANTHOCY-OCCASIONAL
___ 03:35PM   PLT COUNT-121*
___ 03:35PM   PSA-559.1*
___ 03:35PM   PHOSPHATE-2.0* MAGNESIUM-2.2
___ 03:35PM   ALT(SGPT)-11 AST(SGOT)-18 ALK PHOS-95 TOT 
BILI-0.6
___ 03:35PM   UREA N-16 CREAT-1.0 SODIUM-138 POTASSIUM-4.2 
CHLORIDE-105 TOTAL CO2-23 ANION GAP-14
 
DISCHARGE
___ 07:30AM BLOOD WBC-3.0* RBC-4.23* Hgb-11.7* Hct-36.1* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-16.1* Plt ___
___ 07:30AM BLOOD Neuts-37.5* Lymphs-45.3* Monos-16.5* 
Eos-0.4 Baso-0.4
___ 05:30AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-OCCASIONAL Microcy-1+ Polychr-NORMAL Ovalocy-1+ 
Schisto-OCCASIONAL Burr-OCCASIONAL
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-106* UreaN-10 Creat-0.8 Na-138 
K-4.4 Cl-107 HCO3-25 AnGap-10
___ 07:30AM BLOOD TotBili-0.3
___ 07:30AM BLOOD Calcium-8.7 Phos-2.2* Mg-1.8
 
MICRO:
- Stool C. diff ___: POSITIVE
- Blood culture ___: pending
- Urine culture ___: No growth
 
CXR ___:
1.  A 13-mm nodule projecting over the left lung base may 
represent confluence of shadows.  Shallow obliques may be 
helpful for further evaluation. 
2.  No pneumonia, edema, or effusion. 
 
Brief Hospital Course:
___ w/ metastatic prostate cancer, HTN, DMII (diet controlled), 
PVD (s/p stents in L leg), OA (s/p back surgery in ___, PBC, 
urinary retention who presents with failure to thrive, found to 
be neutropenic with C. diff colitis.
 
# Diarrhea / C. diff colitis: He presented with nausea, fatigue, 
and diarrhea, and was found to be neutropenic and to have C. 
diff colitis. He did not have evidence of severe disease, and 
his diarrhea improved with IV fluids, oral flagyl 500mg Q8H, and 
supportive management. He did not have guaic positive stool. At 
the time of discharge, his diarrhea was much improved, and he 
was tolerating oral hydration and nutrition. He was discharged 
with a total 10 day course of flagyl until ___.
 
# Neutropenia: He was found to be neutropenic with ANC 250 at 
nadir. This was likely secondary to chemotherapy with taxotere, 
as well as response to C. diff infection. He did not have fever. 
Given neutropenia and concern for intra-abdominal process, he 
received IV cefepime for 3 days until he was no longer 
neutropenic. His ANC improved and was 1,125 at the time of 
discharge.
  
# Anemia: Hct drop on admission concerning for GIB, stools 
mildly positive without frank blood or melena. Likely secondary 
to chemotherapy and anemia of chronic disease. His hematocrit 
remained stable and he did not require transfusions. His Hct at 
discharge was 36.1.
 
# Metastatic Prostate Cancer: He was diagnosed in ___, treated 
definitively with radiation, and restarted therapy with lupron 
in ___. He started taxotere 60mg/m2 on ___, and is 
currently on ___ cycle ___ = C3D9) - receives taxotere every 3 
weeks, last dose was on ___ (cycle 3). He is responding with 
decreased PSA and improvement in pain. Notably, he was admitted 
___ to ___ for right pleuritic CP, PE workup negative, 
however CT showed possible lung metastases. His PSA was 559 on 
this admission, improved from 668 one week prior, and 964 in 
___. 
 
# Hypertension: His blood pressure was elevated to SBP 150s-160s 
after he was adequately resuscitated. He was continued on his 
home valsartan, and further adjustments should be made on an 
outpatient basis.
 
# Urinary retention: currently stable. Continued terazosin.
 
TRANSITIONAL ISSUES
 
# Mr ___ presented with nausea, diarrhea, and weight loss, 
and was found to have C. diff colitis. He was treated with PO 
flagyl, and his diarrhea improved. He should continued to take 
flagyl to complete a 10 day course until ___. Please follow 
up to ensure that his c. diff has been adquately treated.
 
# He was found to be neutropenic during this admission, most 
likely a result of his taxotere as well as infection. His ANC 
improved with treatment of his infection, and he was no longer 
neutropenic by the time of discharge. Please check his CBC w/ 
diff at the next follow up, and adjust his medications as 
appropriate.
 
# A chest film showed a 13-mm nodule projecting over the left 
lung base. A CT chest performed in ___ showed multiple 
bilateral lung nodules concerning for metastatic disease. Please 
follow up on his chest imaging, and consider repeat CT to 
evaluate for progression of his prostate cancer. His PSA on this 
admission was 559, which is improved compared to prior.
 
# His blood pressure was elevated during this admission to SBP 
150-160s despite his home valsartan 160mg daily. Please check 
his blood pressure at the next visit, and adjust his medications 
as appropriate.
 
# CODE: FULL, confirmed with patient
 
# CONTACT: ___ (brother) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Terazosin 10 mg PO HS 
2. Ursodiol 300 mg PO BID 
3. Valsartan 160 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Terazosin 10 mg PO HS 
4. Ursodiol 300 mg PO BID 
5. Valsartan 160 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 10 Days 
Take until ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*15 Tablet Refills:*0
9. Outpatient Physical Therapy
ICD-9: 783.41 Failure to thrive

Please provide physical therapy assessment and treatment three 
times weekly until patient is independent.
10. Acetaminophen ___ mg PO Q6H:PRN pain, fever 
Do not take more than 4gm (8 tablets) daily 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary:
- Failure to thrive
- C. diff colitis
 
Secondary:
- Neutropenia
- Prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure taking care of you at the ___. You were 
admitted for weight loss, nausea, and vomiting, and were found 
to have a bacterial infection of the gastrointestinal tract (C. 
diff colitis). You were treated with oral antibiotics (flagyl), 
which you should continue until ___. You were also treated 
with IV antibiotics (cefepime) when your immune system was weak. 
Your symptoms improved, and at the time of discharge you were no 
longer having diarrhea, and your immune system was no longer 
compromised. 
 
Followup Instructions:
___